US05750469
Methyl 3-amino-3-phenyl-2-(4,6-dimethoxypyrimidin-2-yl)oxybutyrate
3.7 g (10 mmol) of methyl 3-azido-3-phenyl-2-(4,6-dimethoxypyrimidin-2-yl)oxybutyrate (Ex. 2) are dissolved in 20 ml of methanol/ethyl acetate (1:1), treated with 400 mg of Pd/C 10% and stirred for 6 h under a hydrogen atmosphere. After filtering off the catalyst and concentrating, a colorless oil is obtained which solidifies after a few days.

reactant | methyl 3-azido-3-phenyl-2-(4,6-dimethoxypyrimidin-2-yl)oxybutyrate | 10 mmol, 3.7 g | N(=[N+]=[N-])C(C(C(=O)OC)OC1=NC(=CC(=N1)OC)OC)(C)C1=CC=CC=C1 | C17H19N5O5
solvent | methanol ethyl acetate | 20 ml | CO.C(C)(=O)OCC
catalyst | Pd/C | 400 mg | [Pd] | Pd
product | Methyl 3-amino-3-phenyl-2-(4,6-dimethoxypyrimidin-2-yl)oxybutyrate | NC(C(C(=O)OC)OC1=NC(=CC(=N1)OC)OC)(C)C1=CC=CC=C1 | C17H21N3O5
